US04368332
N-Hydroxyphthalimide (12.0 g) in 130 ml dimethyl sulphoxide is treated with anhydrous finely divided potassium carbonate (6.6 g), when the dark red colour of the anion develops. The mixture is then treated dropwise at room temperature with p-fluorobenzyl chloride (20 g) and the mixture is stirred overnight or until the red colour is discharged. The reaction mixture is poured into water, and the resultant crystalline product is filtered off. Recrystallisation from ethanol gives N-p-fluorobenzyloxyphthalimide in pure form as white needles. (16.4 g, 82%), m.p. 156°-157° C.

reactant | N-Hydroxyphthalimide | 12.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-fluorobenzyl chloride | 20 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | water | O | H2O
solvent | dimethyl sulphoxide | 130 ml | CS(=O)C | C2H6OS
product | N-p-fluorobenzyloxyphthalimide | FC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C15H10FNO3
